US07842685B2
To a solution of 2-(4-bromo-3-fluorophenyl)-1,3-dioxane (7.65 g, 29.3 mmol) in 75 mL THF under argon at −78° C. was added 1-butyllithium 2.5M in hexanes (12.9 mL, 32.2 mmol) in portions over ˜20 min. The reaction mixture was allowed to stir 20 min, and was yellow. A solution of 2,6-dichloro-3-isothiocyanatopyridine (6.01 g, 29.3 mmol) in 20 mL THF was added dropwise via cannula. The resulting dark brown solution was allowed to stir 15 min, then was quenched by addition of sat'd aq. NH4Cl. The reaction mixture was partitioned between sat'd aq. NH4Cl and Et2O. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to give an orange solid. The solid was treated with sodium carbonate (4.66 g, 44.0 mmol) and approximately 15 mL DMF, and stirred under nitrogen at 90° C. The reaction was heated overnight, and in the morning was a solid mass. The reaction was diluted with water, stirred rapidly for several hours, and filtered, rinsing with water and MeOH. The resulting solid was dried in vacuo to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine. MS (ESI) m/z: Calculated: 350.0; Observed: 350.9 (M++1).

reactant | 2-(4-bromo-3-fluorophenyl)-1,3-dioxane | 29.3 mmol, 7.65 g | BrC1=C(C=C(C=C1)C1OCCCO1)F | C10H10BrFO2
reactant | 1-butyllithium | 2.5M | C(CCC)[Li]
reactant | 2,6-dichloro-3-isothiocyanatopyridine | 29.3 mmol, 6.01 g | ClC1=NC(=CC=C1N=C=S)Cl | C6H2Cl2N2S
reactant | sodium carbonate | 44.0 mmol, 4.66 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | approximately 15 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)Cl)F | C16H12ClFN2O2S
